US07087599B2
A mixture of 5-methoxy-1-indanone (25.0 g, 154 mmol), 85% KOH (2.03 g, 30.8 mmol), 10% palladium on activated carbon (2 g), and ethanol (150 mL) was placed under a hydrogen atmosphere and stirred while butyraldehyde (16.7 mL, 185 mmol) was added over 2 minutes. The mixture warmed during the addition. The resulting mixture was hydrogenated at room temperature for 3 hours, then filtered to remove the catalyst. The filtrate was acidified with 2N HCl (15.4 mL, 30.8 mmol) and evaporated under vacuum. The residue was partitioned between EtOAc (500 mL) and water (500 mL). The organic phase was washed with water (500 mL) and brine (100 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (33.5 g). The crude product was purified by column chromatography on EM silica gel 60 (230-400 mesh, 670 g), eluting first with CH2Cl2 and then with 5% EtOAc in CH2Cl2, to afford 2-butyl-5-methoxy-1-indanone (17.9 g) as an oil.

reactant | 5-methoxy-1-indanone | 154 mmol, 25.0 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | KOH | 30.8 mmol, 2.03 g | [OH-].[K+]
reactant | butyraldehyde | 185 mmol, 16.7 mL | C(CCC)=O | C4H8O
reactant | HCl | 30.8 mmol, 2N, 15.4 mL | Cl | ClH
catalyst | palladium on activated carbon | 2 g | [Pd] | Pd
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-butyl-5-methoxy-1-indanone | 17.9 g | C(CCC)C1C(C2=CC=C(C=C2C1)OC)=O | C14H18O2
